US08809342B2
Methanesulfonyl chloride (341 mg, 2.97 mmol) was added dropwise to a solution of ethyl 4-(1-hydroxybutyl)benzoate (504 mg, 2.27 mmol) and triethylamine (477 mg, 4.58 mmol) in dichloromethane (5 mL) at 0° C. The reaction was stirred at 0° C. for 2 hours. The reaction was diluted with ethyl acetate and washed with saturated ammonium chloride, saturated sodium bicarbonate, and brine. The organics were dried over sodium sulfate, filtered and concentrated to give ethyl 4-(1-(methylsulfonyloxy)butyl)benzoate. 1H NMR (400 MHz, CDCl3, δ): 8.02-8.10 (d, J=8.19 Hz, 2 H), 7.44 (d, J=8.19 Hz, 2 H), 5.50-5.61 (m, 1 H), 4.37 (q, J=7.22 Hz, 2 H), 1.97-2.11 (m, 1 H), 1.78-1.88 (m, 1 H), 1.39 (t, J=7.22 Hz, 3 H), 1.28-1.52 (m, 2 H), 0.94 (t, J=7.41 Hz, 3 H).

reactant | Methanesulfonyl chloride | 2.97 mmol, 341 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl 4-(1-hydroxybutyl)benzoate | 2.27 mmol, 504 mg | OC(CCC)C1=CC=C(C(=O)OCC)C=C1 | C13H18O3
reactant | triethylamine | 4.58 mmol, 477 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 4-(1-(methylsulfonyloxy)butyl)benzoate | CS(=O)(=O)OC(CCC)C1=CC=C(C(=O)OCC)C=C1 | C14H20O5S
